US06143779
Synthesis of 6-pentyloxy-2-piperonylidene-3(2H)-benzofuranone
After 6-hydroxy-2-piperonylidene-3(2H)-benzofuranone 1 g and potassium carbonate 1.95 g were added to dimethylformamide 10 ml, n-pentyl iodide 0.79 ml was added, and the mixture was reacted at a temperature of 100° C. for two hours. After the solution was cooled to room temperature, ethyl acetate 200 ml was added. The ethyl acetate solution was washed with water 100 ml twice and a saturated sodium chloride solution 50 ml twice. The ethyl acetate solution was dehydrated with anhydrous magnesium sulfate, and concentrated to 15 ml under reduced pressure. The precipitated crystals were filtered and dried over phosphorous pentoxide at a temperature of 60° C. for four hours under reduced pressure to obtain the desired compound 0.97 g.

reactant | 6-hydroxy-2-piperonylidene-3(2H)-benzofuranone | 1 g | OC1=CC2=C(C(C(O2)=CC2=CC=3OCOC3C=C2)=O)C=C1 | C16H10O5
reactant | potassium carbonate | 1.95 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | n-pentyl iodide | 0.79 ml | C(CCCC)I | C5H11I
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | 6-pentyloxy-2-piperonylidene-3(2H)-benzofuranone | 0.97 g | C(CCCC)OC1=CC2=C(C(C(O2)=CC2=CC=3OCOC3C=C2)=O)C=C1 | C21H20O5
